US06432944B1
To the solution of homophthalic anhydride (6.80 g, 41.9 mmol) in 70 mL of glacial acetic acid was added 1-methyl-2-(1-methylethyl)hydrazine, dihydrochloride (6.75 g, 41.9 mmol) in 35 mL of pyridine (Rosen, et al., J. Heterocyclic Chem., 1969, 6, 9-12). The solution was refluxed for 12 h, cooled, diluted with water (300 mL), and extracted with chloroform (3×400 mL). The chloroform extract was washed with 10% hydrochloric acid (600 mL) and 5% sodium bicarbonate (600 mL) , dried over magnesium sulfate and concentrated to dryness. The mixture was purified by silica gel chromatography (hexane/ethyl acetate, 3/1) to afford 2,3,4,5-tetrahydro-3-methyl-2-(1-methylethyl)-1H-2,3-benzodiazepin-1,4-dione (5 g, 51%).

reactant | homophthalic anhydride | 41.9 mmol, 6.80 g | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
reactant | 1-methyl-2-(1-methylethyl)hydrazine, dihydrochloride | 41.9 mmol, 6.75 g | Cl.Cl.CNNC(C)C
solvent | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
solvent | pyridine | 35 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 300 mL | O | H2O
product | 2,3,4,5-tetrahydro-3-methyl-2-(1-methylethyl)-1H-2,3-benzodiazepin-1,4-dione | 5 g, 51% | CN1N(C(C2=C(CC1=O)C=CC=C2)=O)C(C)C | C13H16N2O2
